US05436259
Step C: N-t-Butyl-benzenesulfonamide
To a solution of benzenesulfonyl chloride in anhydrous CH2Cl2 (0.5M solution) cooled to 0° C. under N2 was added t-butylamine (2.2 equiv) slowly through a dropping funnel. After completion of addition, the reaction was stirred at toom temperature for 12 hours. The solvent was removed under reduced pressure, and the residue was extracted into ether and washed with 2N NaOH, H2O and brine. The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo to afford the titled product, which was used directly in the next step.

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | t-butylamine | 2.2 equiv | C(C)(C)(C)N | C4H11N
solvent | CH2Cl2 | 0.5M | C(Cl)Cl | CH2Cl2
product | N-t-Butyl-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=CC=C1 | C10H15NO2S
